US05654307
A suspension of 7-fluoropyrido[2,3-d]pyrimid-4(3H)-one (0.20 g, 1.21 mmol) in POCl3 (10 mL) is heated under reflux for 2 h. The volatiles are then removed under reduced pressure, and the residue is partitioned between aqueous NaHCl and EtOAc. The organic extract is worked up to give crude 4-chloro-7-fluoropyrido[2,3-d]pyrimidine, which is used directly in the next reaction. A solution of this product (0.20 g, 1.09 mmol) and 3-bromoaniline (0.23 mL, 2.18 mmol) in propan-2-ol (1.0 mL) and THF (10 mL) containing a trace of conc. HCl is stirred at 20° C. for 1 h, and then concentrated to dryness. The residue is dissolved in EtOAc, washed with aqueous NaHCO3, and worked up to give an oil, which is chromatographed on silica gel. Elution with EtOAc/petroleum ether (1:5) gives 3-bromoaniline, while EtoAc/petroleum ether (1:1) elutes 4-(3-bromoanilino)-7-fluoropyrido[2,3-d]pyrimidine (0.18 g, 47%), mp (MeOH) 211°-213° C. 1H NMR (DMSO) δ 10.18 (1H, brs), 9.17 (1H, t, J=8.6 Hz), 8.80 (1H, s), 8.17 (1H, t, J=1.8 Hz), 7.85 (1H, dt, Jd =7.6 Hz, Jt =1.8 Hz), 7.53 (1H, dd, J=8.6, 2.7 Hz), 7.41-7.34 (2H, m).

reactant | 7-fluoropyrido[2,3-d]pyrimid-4(3H)-one | 1.21 mmol, 0.20 g | FC=1C=CC2=C(N=CNC2=O)N1 | C7H4FN3O
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-fluoropyrido[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N=C(C=C2)F | C7H3ClFN3
